US06908913B2
A ketone compound (327 mg) was prepared in substantially the same manner as in step b) of Synthesis Example 1, except that 577 mg of 7-[(quinolin-3-yl)hydroxymethyl]imidazo[5,1-b]thiazole and 421 mg of manganese dioxide were used as the starting compounds. 7-(Quinolin-3-yl)carbonyl-2-(tri-n-butylstannyl)imidazo-[5,1-b]thiazole (73 mg) was prepared in substantially the same manner as in step c) of Synthesis Example 1, except that 64 mg of the ketone compound, 0.140 ml of tri-n-butylstannyl chloride, and 1.50 ml of a 1.0 N lithium bis(trimethylsilyl)amide/THF solution were used as the starting materials.

reactant | 7-[(quinolin-3-yl)hydroxymethyl]imidazo[5,1-b]thiazole | 577 mg | N1=CC(=CC2=CC=CC=C12)C(C=1N=CN2C1SC=C2)O | C15H11N3OS
reactant | tri-n-butylstannyl chloride | 0.140 ml | C(CCC)[Sn](CCCC)(CCCC)Cl
reactant | lithium bis(trimethylsilyl)amide THF | 1.0 N | C[Si](C)(C)[N-][Si](C)(C)C.[Li+].C1CCOC1
catalyst | manganese dioxide | 421 mg | [O-2].[O-2].[Mn+4]
product | 7-(Quinolin-3-yl)carbonyl-2-(tri-n-butylstannyl)imidazo-[5,1-b]thiazole | 73 mg | N1=CC(=CC2=CC=CC=C12)C(=O)C=1N=CN2C1SC(=C2)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C15H8N3OS.3C4H9.Sn/c19-14(13-15-18(9-17-13)5-6-20-15)11-7-10-3-1-2-4-12(10)16-8-11;3*1-3-4-2;/h1-5,7-9H;3*1,3-4H2,2H3;
